US07115741B2
[4-(6-Ethyl-thieno[2,3-d]pyrimidin-4-yl)-piperazin-1-yl]-piperidin-2-yl-methanone
2-[4-(6-Ethyl-thieno[2,3-d]pyrimidin-4-yl)-piperazine-1-carbonyl]-piperidine-1-carboxylic acid tert-butyl ester (276.1 mg) was dissolved in methanol (1.00 mL) and HCl (4 M in dioxane, 1.00 mL) was added. After stirring at room temperature for 1.5 hours, the solvents were removed and the residue was desalted with MP-carbonate resin in methanol giving the desired free amine. Yield=100%, ES-MS: (M+H)+ 360

reactant | 2-[4-(6-Ethyl-thieno[2,3-d]pyrimidin-4-yl)-piperazine-1-carbonyl]-piperidine-1-carboxylic acid tert-butyl ester | 276.1 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)SC(=C2)CC | C23H33N5O3S
reactant | HCl | 4 M, 1.00 mL | Cl | ClH
solvent | methanol | 1.00 mL | CO | CH4O
product | [4-(6-Ethyl-thieno[2,3-d]pyrimidin-4-yl)-piperazin-1-yl]-piperidin-2-yl-methanone | Yield=100% | C(C)C1=CC2=C(N=CN=C2N2CCN(CC2)C(=O)C2NCCCC2)S1 | C18H25N5OS
